US04440774
(d) 2-[p-(3-Cyclopropylamino-2-hydroxypropoxy)phenyl]imidazole, (IV)
A mixture of 3-[p-(2-imidazolyl)phenoxy]-1,2-epoxypropane (4.95 g., 0.023 m.) in cyclopropylamine (50 ml.) is refluxed at 60° for 30 hours. The mixture is concentrated under reduced pressure and the residue is chromatographed on silica gel, eluting with 5-10% MeOH-CHCl3 saturated with NH3. The free base (IV) (1.21 g., 19%) is crystallized as the dihydrochloride salt from EtOH-MeOH-ether (m.p. 214°-5°).

reactant | 3-[p-(2-imidazolyl)phenoxy]-1,2-epoxypropane | 4.95 g | N1C(=NC=C1)C1=CC=C(OCC2CO2)C=C1 | C12H12N2O2
reactant | cyclopropylamine | 50 ml | C1(CC1)N | C3H7N
product | 2-[p-(3-Cyclopropylamino-2-hydroxypropoxy)phenyl]imidazole | C1(CC1)NCC(COC1=CC=C(C=C1)C=1NC=CN1)O | C15H19N3O2
